US04200578
N-Cyano-N'-(2-propyn-1-yl)-N"-{3-[(thiazol-2-yl)methylthio]propyl}guanidine
Reaction of 3-[(thiazol-2-yl)methylthio]propylamine with dimethyl cyanodithioimidocarbonate and treatment of the product with excess propargylamine yields the title compound.

reactant | 3-[(thiazol-2-yl)methylthio]propylamine | S1C(=NC=C1)CSCCCN | C7H12N2S2
reactant | dimethyl cyanodithioimidocarbonate | C(#N)N=C(SC)SC | C4H6N2S2
reactant | propargylamine | C(C#C)N | C3H5N
product | N-Cyano-N'-(2-propyn-1-yl)-N"-{3-[(thiazol-2-yl)methylthio]propyl}guanidine | C(#N)NC(=NCCCSCC=1SC=CN1)NCC#C | C12H15N5S2
